US07119102B2
4-[2-Hydroxy-2-(2-methylsulfanyl-pyrimidin-4-yl)-ethylamino]-piperidine-1-carboxylic acid tert-butyl ester (510.0 mg, 1.387 mmol) was dissolved into 3 mL of EtOAc and 3 mL of 4.0 M HCl in dioxane was added. The mixture was allowed to stir overnight with a white precipitate forming. The precipitate was triturated with 3×10 mL of EtOAc and dried under vacuum to give 441.4 mg, 93.2% of crude 1-(2-methylsulfanyl-pyrimidin-4-yl)-2-(piperidin-4-ylamino)-ethanol dihydrochloride salt. The material was carried on without further purification.

reactant | 4-[2-Hydroxy-2-(2-methylsulfanyl-pyrimidin-4-yl)-ethylamino]-piperidine-1-carboxylic acid tert-butyl ester | 1.387 mmol, 510.0 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC(C1=NC(=NC=C1)SC)O | C17H28N4O3S
reactant | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
reactant | HCl | 4.0 M, 3 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(2-methylsulfanyl-pyrimidin-4-yl)-2-(piperidin-4-ylamino)-ethanol dihydrochloride salt | 441.4 mg, 93.2% | Cl.Cl.CSC1=NC=CC(=N1)C(CNC1CCNCC1)O | InChI=1S/C12H20N4OS.2ClH/c1-18-12-14-7-4-10(16-12)11(17)8-15-9-2-5-13-6-3-9;;/h4,7,9,11,13,15,17H,2-3,5-6,8H2,1H3;2*1H
